* NGSPICE file created from test_gencell_rhigh_save2.ext - technology: ihp-sg13g2

.subckt rhigh_2JWUML R1 R2 sub
X0 R1 R2 sub rhigh l=10u w=2u
C0 R2 a_n200_n1000# 0.14077f
C1 R1 a_n200_n1000# 0.14077f
C2 R2 sub 0.41402f
C3 R1 sub 0.41402f
C4 a_n200_n1000# sub 2.6394f $ **FLOATING
.ends

.subckt test_gencell_rhigh_save2
XR1 R1/R1 R1/R2 sub rhigh_2JWUML
.ends

