* NGSPICE file created from test_rhigh_sublabel.ext - technology: ihp-sg13g2

.subckt test_rhigh_sublabel P N sub
X0 P N sub rhigh l=30u w=2u
C0 N a_2000_2000# 0.07774f
C1 P a_2000_2000# 0.07774f
C2 N sub 0.92073f
C3 P sub 0.92073f
C4 a_2000_2000# sub 7.76394f $ **FLOATING
.ends

