* NGSPICE file created from test_rhigh_vss.ext - technology: ihp-sg13g2

.subckt test_rhigh_vss P N VSS
X0 P N VSS rhigh l=30u w=2u
C0 P a_2000_2000# 0.07774f
C1 N a_2000_2000# 0.07774f
C2 N VSS 0.92073f
C3 P VSS 0.92073f
C4 a_2000_2000# VSS 7.76394f $ **FLOATING
.ends

