* NGSPICE file created from biodiff_top.ext - technology: ihp-sg13g2

.subckt biodiff_top VIN_N VIN_P VOUT_N VOUT_P VDD TAIL VSS
X0 TAIL VIN_P VOUT_P VSS sg13_lv_nmos ad=0.64p pd=3.2u as=0.64p ps=3.2u w=3.2u l=0.8u
X1 VOUT_N VIN_N TAIL VSS sg13_lv_nmos ad=0.64p pd=3.2u as=0.64p ps=3.2u w=3.2u l=0.8u
XLOAD_N VDD VOUT_N VSS rhigh l=10u w=2u
XLOAD_P VDD VOUT_P VSS rhigh l=10u w=2u
.ends

